US04500536
Synthesis of N-(ethoxycarbonylmethyl)-N-furfuryl-triazole-1-carboxamide (Compound No. 4) by the process(A)
Into a solution of 100 ml of dry tetrahydrofuran containing 10 g (0.05 mol) of trichloromethyl chloroformate, 30 ml of a dry tetrahydrofuran solution containing 13 g (0.071 mol) of N-(1-ethoxycarbonylmethyl)-N-furfurylamine was added dropwise while cooling the former at 0° to 5° C. After stirring the mixture for 30 min at room temperature, 200 ml of dry tetrahydrofuran solution containing 9.8 g (0.121 mol) of triazole was added at 10° to 15° C. to the mixture. Then the mixture was gradually heated to boiling and reacted for about one hour while refluxing. After the reaction was over, the reaction mixture was cooled to a room temperature and poured into water. The mixture was extracted with ethyl acetate, and the extract was treated by the usual procedures of washing with water, separating, dehydrating and concentrating. The thus obtained concentrate was subjected to silica gel chromatography to obtain 13 g (0.0468 mol) of an oily substance. The thus obtained Compound No. 4 gave the following physical constants:

reactant | tetrahydrofuran | 0.05 mol, 100 ml, 10 g | O1CCCC1 | C4H8O
reactant | trichloromethyl chloroformate | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | N-(1-ethoxycarbonylmethyl)-N-furfurylamine | 0.071 mol, 13 g | C(C)OC(=O)CNCC1=CC=CO1 | C9H13NO3
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | triazole | 0.121 mol, 9.8 g | N1N=NC=C1 | C2H3N3
solvent | water | O | H2O
product | N-(ethoxycarbonylmethyl)-N-furfuryl-triazole-1-carboxamide | C(C)OC(=O)CN(C(=O)N1N=NC=C1)CC1=CC=CO1 | C12H14N4O4
